US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1-(pyridin-3-yl)-1H-pyrazole-3-carboxamide
The title compound was prepared from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (0.058 g, 0.307 mmol), 1-(pyridin-3-yl)-1H-pyrazole-3-carboxylic acid (0.080 g, 0.307 mmol), DIPEA (0.160 ml, 0.921 mmol), HOBt hydrate (0.071 g, 0.460 mmol) and EDCI (0.088 g, 0.460 mmol) using the method of Example 274 affording 0.120 g of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 1.18 (d, 3H), 4.38 (m, 2H), 4.50 (m, 1H), 6.89 (d, 1H), 6.95 (d, 1H), 7.59 (m, 1H), 7.90 (m, 3H), 8.04 (d, 1H), 8.30 (m, 1H), 8.38 (d, 1H), 8.60 (d, 1H), 8.65 (d, 1H), 9.19 (d, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.307 mmol, 0.058 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
reactant | 1-(pyridin-3-yl)-1H-pyrazole-3-carboxylic acid | 0.307 mmol, 0.080 g | N1=CC(=CC=C1)N1N=C(C=C1)C(=O)O | C9H7N3O2
reactant | DIPEA | 0.921 mmol, 0.160 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt hydrate | 0.460 mmol, 0.071 g | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDCI | 0.460 mmol, 0.088 g | CCN=C=NCCCN(C)C | C8H17N3
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1-(pyridin-3-yl)-1H-pyrazole-3-carboxamide | 0.120 g | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NN(C=C1)C=1C=NC=CC1 | C22H18ClN7O
